US07919628B2
17 mg 2-{[1-(phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid were dissolved in 4 ml of MeOH, 19 mg 10% Pd on charcoal were added and the mixture hydrogenated at room temperature for 14 h. Filtration, RP-HPLC and freeze-drying gave 3.2 mg of 2-Methyl-2-[(1-phenethyl-naphthalene-2-carbonyl)-amino]-propionic acid (18%).

reactant | 2-{[1-(phenylethynyl)-naphthalene-2-carbonyl]-amino}-2-methyl-propionic acid | 17 mg | C1(=CC=CC=C1)C#CC1=C(C=CC2=CC=CC=C12)C(=O)NC(C(=O)O)(C)C | C23H19NO3
solvent | MeOH | 4 ml | CO | CH4O
catalyst | Pd on charcoal | 19 mg | [Pd] | Pd
product | 2-Methyl-2-[(1-phenethyl-naphthalene-2-carbonyl)-amino]-propionic acid | 3.2 mg, 18% | CC(C(=O)O)(C)NC(=O)C1=C(C2=CC=CC=C2C=C1)CCC1=CC=CC=C1 | C23H23NO3
